US06576637B1
Esterification of 3-(4-chloro-3-nitrophenyl)-3-{2-[5-(4-methylpyridin-2-ylamino)pentanoylamino]acetylamino}propionic acid by activation with thionyl chloride and reaction with ethanol under standard conditions produces ethyl 3-(4-chloro-3-nitrophenyl)-3-{2-[5-(4-methylpyridin-2-ylamino)pentanoylamino]acetylamino}propionate hydrochloride, RT 27.95, FAB-MS (M+H)+ 520.

reactant | 3-(4-chloro-3-nitrophenyl)-3-{2-[5-(4-methylpyridin-2-ylamino)pentanoylamino]acetylamino}propionic acid | ClC1=C(C=C(C=C1)C(CC(=O)O)NC(CNC(CCCCNC1=NC=CC(=C1)C)=O)=O)[N+](=O)[O-] | C22H26ClN5O6
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | C(C)O | C2H6O
product | ethyl 3-(4-chloro-3-nitrophenyl)-3-{2-[5-(4-methylpyridin-2-ylamino)pentanoylamino]acetylamino}propionate hydrochloride | Cl.ClC1=C(C=C(C=C1)C(CC(=O)OCC)NC(CNC(CCCCNC1=NC=CC(=C1)C)=O)=O)[N+](=O)[O-] | InChI=1S/C24H30ClN5O6.ClH/c1-3-36-24(33)14-19(17-7-8-18(25)20(13-17)30(34)35)29-23(32)15-28-22(31)6-4-5-10-26-21-12-16(2)9-11-27-21;/h7-9,11-13,19H,3-6,10,14-15H2,1-2H3,(H,26,27)(H,28,31)(H,29,32);1H
